US07863271B2
To an ice cold, stirred suspension of sodium hydride (60% in oil, 2.1 g, 52.0 mmol) in toluene (65 mL) was added dropwise a solution of (R)-2-aminobutan-1-ol (2.0 g, 22.0 mmol) in toluene (48 mL). After the addition was completed, the reaction mixture was warmed to room temperature and a solution of ethyl chloroacetate (3.0 g, 25.0 mmol) in toluene (12 mL) was added in a dropwise manner. The resulting mixture was then stirred at reflux for 20 h, cooled to room temperature, and solid ammonium chloride (2.7 g, 52.0 mmol) added to the reaction. The mixture was stirred for 20 min and then concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 95:5 dichloromethane/methanol) to give (R)-5-ethylmorpholine-3-one (2.0 g, 70%) as a light yellow solid. To ice-cold tetrahydrofuran (10 mL) was added lithium aluminum hydride (1.0 M solution in tetrahydrofuran, 31.0 mL, 31.0 mmol). Once the addition was complete, a solution of (R)-5-ethylmorpholine-3-one (2.0 g, 16 mmol) in tetrahydrofuran (10 mL) was added dropwise over 20 min. Once the addition was completed, the ice bath was removed and the reaction mixture stirred at reflux for 20 h. The reaction was cooled in an ice-bath and tot his was slowly added water (1.3 mL), then a 15% solution of sodium hydroxide (1.3 mL), and then water (1.3 mL). The resulting mixture was stirred at room temperature for 1.5 h and then filtered washing the solid with ethyl acetate (50 mL). The filtrate was concentrated at room temperature under reduced pressure to provide (R)-3-ethylmorpholine (1.6 g, 90%) as a light yellow oil. 1H NMR and MS consistent.

reactant | sodium hydride | 52.0 mmol, 2.1 g | [H-].[Na+]
reactant | (R)-2-aminobutan-1-ol | 22.0 mmol, 2.0 g | N[C@@H](CO)CC | C4H11NO
reactant | ethyl chloroacetate | 25.0 mmol, 3.0 g | ClCC(=O)OCC | C4H7ClO2
reactant | ammonium chloride | 52.0 mmol, 2.7 g | [Cl-].[NH4+]
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 48 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-5-ethylmorpholine-3-one | 2.0 g, 70% | C(C)[C@@H]1COCC(N1)=O | C6H11NO2
